US07772221B2
Step AE (2): To a solution of 2,2,2-trifluoro-N-((1R,2S)-2-hydroxy-6-methoxy-2,3-dihydro-1H-inden-1-yl)acetamide in DMF (4.5 mL) at rt was added sodium hydride (95% purity, 205 mg). The resulting mixture was stirred at rt for 5 min. Allyl bromide (0.26 mL) was added, and the reaction mixture was stirred for 30 min. Water was added, the aqueous layer was extracted with EtOAc (×3), and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated in vacuo to give N-((1R,2S)-2-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-yl)-2,2,2-trifluoroacetamide as a slightly yellowish oil (660 mg). 1H NMR (400 MHz, CDCl3) δ 7.14 (1H, d), 6.85 (1H, d), 6.83 (1H, s), 5.88 (1H, m), 5.44 (1H, d), 5.28 (1H, dt), 5.12 (1H, dt), 4.38 (1H, q), 4.06 (1H, m), 3.76 (3H, s), 3.05 (1H, d).

reactant | 2,2,2-trifluoro-N-((1R,2S)-2-hydroxy-6-methoxy-2,3-dihydro-1H-inden-1-yl)acetamide | FC(C(=O)N[C@H]1[C@H](CC2=CC=C(C=C12)OC)O)(F)F | C12H12F3NO3
reactant | sodium hydride | 205 mg | [H-].[Na+]
reactant | Allyl bromide | 0.26 mL | C(C=C)Br | C3H5Br
reactant | Water | O | H2O
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | N-((1R,2S)-2-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-yl)-2,2,2-trifluoroacetamide | C(C=C)O[C@@H]1[C@@H](C2=CC(=CC=C2C1)OC)NC(C(F)(F)F)=O | C15H16F3NO3
